US05089509
4,4-Dimethyl-6-ethynyl-1,2,3,4-tetrahydroquinoline
To a solution of 569 mg (2.21 mmol) of 4,4-dimethyl-6-trimethylsilylethynyl-1,2,3,4-tetrahydroquinoline in 3 ml of isopropanol was added, under argon, 1 ml of 1N aqueous KOH solution. The reaction mixture was stirred at room temperature for 36 hours and the isopropanol was removed under vacuum. The residue was extracted with ether and the ether extract was washed successively with water and saturated NaCl solution and then dried (MgSO4). The solvent was removed in vacuo and the residue was purified by flash chromatography (silica; 10% ethyl acetate in hexanes) to give the title compound as a brown oil.

reactant | 4,4-dimethyl-6-trimethylsilylethynyl-1,2,3,4-tetrahydroquinoline | 2.21 mmol, 569 mg | CC1(CCNC2=CC=C(C=C12)C#C[Si](C)(C)C)C | C16H23NSi
reactant | KOH | 1N, 1 ml | [OH-].[K+]
solvent | isopropanol | 3 ml | C(C)(C)O | C3H8O
product | 4,4-Dimethyl-6-ethynyl-1,2,3,4-tetrahydroquinoline | CC1(CCNC2=CC=C(C=C12)C#C)C | C13H15N
